US09255097B2
[2-(4-amino-piperidin-1-yl)-4-(4-cyano-3-fluoro-phenyl)-5-(4-methoxy-phenyl)-6-oxo-6H-pyrimidin-1-yl]-acetic acid
To a solution of [2-(4-tert-butoxycarbonylamino-piperidin-1-yl)-4-(4-cyano-3-fluoro-phenyl)-5-(4-methoxy-phenyl)-6-oxo-6H-pyrimidin-1-yl]-acetic acid (100 mg, 0.15 mmol) in EA (10 mL) was added a 5N HCl solution in EA (5 mL). The reaction mixture was stirred at RT for 2 h, and the solvent was concentrated in vacuo. The residue was purified by preparative HPLC to give 25 mg of the title product as HCl salt (32%). 1H NMR (400 MHz, CD3OD): δ 1.53-1.56 (m, 2H), 2.00-2.03 (m, 2H), 3.00-3.07 (m, 2H), 3.35-3.39 (m, 1H), 3.67 (s, 3H), 4.70 (s, 2H), 4.76-4.77 (m, 2H), 6.74 (d, J=8.4 Hz, 2H), 6.96 (d, J=8.8 Hz, 2H), 7.17 (d, J=8.4 Hz, 1H), 7.26 (d, J=10.0 Hz, 1H), 7.50 (dd, J=7.2, 8.0 Hz, 1H). [M+H] Calc'd for C25H24FN5O4, 478. Found, 478.

reactant | [2-(4-tert-butoxycarbonylamino-piperidin-1-yl)-4-(4-cyano-3-fluoro-phenyl)-5-(4-methoxy-phenyl)-6-oxo-6H-pyrimidin-1-yl]-acetic acid | 0.15 mmol, 100 mg | C(C)(C)(C)OC(=O)NC1CCN(CC1)C=1N(C(C(=C(N1)C1=CC(=C(C=C1)C#N)F)C1=CC=C(C=C1)OC)=O)CC(=O)O | C30H32FN5O6
reactant | HCl | 5N | Cl | ClH
solvent | EA | 10 mL | CC(OCC)=O | C4H8O2
solvent | EA | 5 mL | CC(OCC)=O | C4H8O2
product | [2-(4-amino-piperidin-1-yl)-4-(4-cyano-3-fluoro-phenyl)-5-(4-methoxy-phenyl)-6-oxo-6H-pyrimidin-1-yl]-acetic acid | 25 mg | NC1CCN(CC1)C=1N(C(C(=C(N1)C1=CC(=C(C=C1)C#N)F)C1=CC=C(C=C1)OC)=O)CC(=O)O | C25H24FN5O4
